US08314098B2
Synthesis of N-(1H-indol-4-yl-methylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 72)
To a solution of 7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl-hydrazine (15 mg, 0.048 mM) in absolute ethanol (2.0 mL), there were added 4-formyl-indole (11 mg, 0.076 mM) and acetic acid (2.0 μL) and the mixture was stirred at room temperature for 3 hours. The precipitated solid was filtered off and then washed with ethanol to thus give the title compound (12 mg, yield: 58%).

reactant | 7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl-hydrazine | 0.048 mM, 15 mg | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C2=CC=CC=C2)NN | C16H18N6O
reactant | 4-formyl-indole | 0.076 mM, 11 mg | C(=O)C1=C2C=CNC2=CC=C1 | C9H7NO
reactant | acetic acid | 2.0 μL | C(C)(=O)O | C2H4O2
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | N-(1H-indol-4-yl-methylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 12 mg, yield: 58% | N1C=CC2=C(C=CC=C12)C=NNC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=CC=C2 | C25H23N7O
